US07956084B2
b) 3-Chloro-4-(tetrahydrofuran-2-ylmethoxy)bromobenzene
Prepared by the method of Example 42 (b) using 2-chloro-4-bromophenol and tetrahydrofurfuryl bromide.

reactant | 2-chloro-4-bromophenol | ClC1=C(C=CC(=C1)Br)O | C6H4BrClO
reactant | tetrahydrofurfuryl bromide | C(C1CCCO1)Br | C5H9BrO
product | 3-Chloro-4-(tetrahydrofuran-2-ylmethoxy)bromobenzene | ClC=1C=C(C=CC1OCC1OCCC1)Br | C11H12BrClO2
